US04725600
To a suspension of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (2.0 g) in a mixture of ethanol (10 ml) and water (10 ml) was added sodium borohydride (1.04 g), and the mixture was stirred under reflux for 1.5 hours. After removal of the organic solvent, the mixture was suspended in water, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, evaporated, and triturated in ethanol, to give 6-(3,4-dimethoxyphenyl)-3-methyl-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine (1.18 g).

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 2.0 g | COC=1C=C(C=CC1OC)C1=CC(N(C=N1)C)=NC1=C(C=C(C=C1C)C)C | C22H25N3O2
reactant | sodium borohydride | 1.04 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 6-(3,4-dimethoxyphenyl)-3-methyl-1,2,3,4-tetrahydro-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.18 g | COC=1C=C(C=CC1OC)C1=CC(N(CN1)C)=NC1=C(C=C(C=C1C)C)C | C22H27N3O2
